Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Flagyl / erythromycin base / Zofran / latex
 
Attending: ___.
 
Chief Complaint:
Neck and arm pain
 
Major Surgical or Invasive Procedure:
___: C4-6 anterior cervical discectomy and fusion 

 
History of Present Illness:
___ is a ___ female who had onset of 
neck and arm pain in ___ after a motor vehicle accident. 
At time of onset, she reports experiencing posterior neck pain 
in addition to pain extending down her arm into the third 
through fifth digits on her right hand. She reports having 
completed three to four months of physical therapy for her 
injury without resolution of symptoms. At that time, and MRI of 
the cervical spine was completed ___. She reports worsening 
pain with numbness into her bilateral arms and legs ___, for 
which she sought care at ___. She was placed 
in a hard cervical collar and transferred to the ___ for an 
MRI. After ED discharge, she followed-up with Dr. ___ 
informed her that she would need surgery. 

Due to insurance, she was unable to have the procedure done at 
___ so patient presented to ___ Spine clinic for surgical 
evaluation on ___. At the time of that appointment, she 
reported pain in her posterior neck that radiates down her right 
arm into her palm. She rates her pain ___ ___nd ___ 
with activity. She also reports intermittent numbness in her 
bilateral arms and legs. She reports weakness in her arms and 
states that she has intermittent leakage of urine and stool 
(three times per week). She denies saddle anesthesia. MRI 
imaging was reviewed. Plan was made for elective C4-6 ACDF.

 
Past Medical History:
Hypertension
Exercise induced asthma
Migraine headache
Anxiety/depression
___ Tonsillectomy
___ Carpal tunnel release
 
Social History:
___
Family History:
Non-contributory. See OMR. 
 
Physical Exam:
ON DISCHARGE:
[ ]AVSS 
___ 0726 Temp: 98.0 PO BP: 128/83 HR: 80 RR: 18 O2 sat: 98%
O2 delivery: Ra 

Bowel Regimen: [x]Yes [ ]No    Last BM: PTA

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
BUE: 4+/5 throughout except deltoids ___ bilaterally. Limited by
effort per exam. 

IPQuadHamATEHLGast
Right5        5       5      5        5       5
Left5        5       5      5        5       5

[+]Clonus - positive 2 beats bilateral 
___ - positive on R, negative on L
[x]Sensation intact to light touch

Wound: 
[x]Clean, dry, intact 
[x]Dermabond 

 
Pertinent Results:
Please see OMR for pertinent results.
 
Brief Hospital Course:
___ is a ___ who presented ___ for 
elective C4-6 ACDF with Dr. ___. Please see separate operative 
report in OMR for further details regarding the procedure. She 
tolerated the procedure well, was extubated after surgery, 
recovered in the PACU and was transferred to the floor once 
stable. At the time of discharge she was ambulating on her own, 
tolerating a diet, voiding on her own and had adequate pain 
control on an oral regimen. ___ determined she was appropriate to 
discharge to home with physical therapy services. 
 
Medications on Admission:
Albuterol inhaler PRN
Amlodipine 5mg daily
Buproprion XL 300mg daily
Diclofenac sodium 75mg daily
Estradiol TD patch topical weekly (___)
Nexplanon 68mg implant
Gabapentin 300mg QHS
Levothyroxine 50 mcg QHS
Lisinopril 10mg daily
Sertraline 200mg QHS
Trazodone 75mg QHS
 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN for fever or pain  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*25 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Lisinopril 10 mg PO DAILY  
8.  Sertraline 200 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cervical stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Surgery
•Your dressing may come off on the second day after surgery. 
•Your incision is closed with dissolvable sutures underneath 
the skin and steri strips. You do not need suture removal. Do 
not remove your steri strips, let them fall off.
•Please keep your incision dry for 72 hours after surgery.
•Please avoid swimming for two weeks.
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•You must wear your hard cervical collar at all times. You may 
remove it briefly for skin care and showering. 
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•No contact sports until cleared by your neurosurgeon. 
•Do NOT smoke. Smoking can affect your healing and fusion.

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc for 2 weeks.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
•It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•New weakness or changes in sensation in your arms or legs.

 
Followup Instructions:
___